US08809369B2
The mixture solution of 5-amino-pyridine-2-carbonitrile (9.3 g, 78.4 mmol), 3-morpholin-4-yl-benzaldehyde (15.0 g, 78.4 mmol) and p-toluenesulfonic acid (271.8 mg, 1.4 mmol) in toluene (150 mL) was heated to reflux for 12 h. Then the reaction mixture was cooled to room temperature. The solvent was removed in vacuo and the residue was washed with ether to afford 5-{[1-(3-morpholin-4-yl-phenyl)-meth-(E)-ylidene]-amino}-pyridine-2-carbonitrile (22.9 g, quant.) as a light yellow solid: MS (ESI) M+1=293.0.

reactant | 5-amino-pyridine-2-carbonitrile | 78.4 mmol, 9.3 g | NC=1C=CC(=NC1)C#N | C6H5N3
reactant | 3-morpholin-4-yl-benzaldehyde | 78.4 mmol, 15.0 g | N1(CCOCC1)C=1C=C(C=O)C=CC1 | C11H13NO2
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 1.4 mmol, 271.8 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 5-{[1-(3-morpholin-4-yl-phenyl)-meth-(E)-ylidene]-amino}-pyridine-2-carbonitrile | 22.9 g | N1(CCOCC1)C=1C=C(C=CC1)\C=N\C=1C=CC(=NC1)C#N | C17H16N4O
